US06165944
At 15° C., 1.65 g (4.3 mmol) of 2-chloro-3-(1-chloro-2,2-dimethyleth-2-ylaminocarbonyl)-4-methylsulfonylbenzoyl chloride in 25 ml of dioxane and 0.45 g (4.5 mmol) of triethylamine in 10 ml of dioxane were added dropwise to a mixture of 0.42 g (4.3 mmol) of 5-hydroxy-1-methylpyrazole in 10 ml of dioxane. The mixture was stirred at room temperature for 4 hours and then filtered off through silica gel, which was rinsed with dioxane. The combined filtrates were concentrated to 60 ml and admixed with 1.24 g (9 mmol) of finely powdered potassium carbonate. The mixture was heated under reflux for 5 hours and cooled, the solvent was removed under reduced pressure, the residue was taken up in water, insoluble components were filtered off and the solution was acidified using 10% strength hydrochloric acid and extracted repeatedly with ethyl acetate. The combined organic phases were subsequently washed with water, dried and concentrated. 1.2 g (68% of theory) of 4-[2-chloro-3-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-4-methylsulfonylbenzoyl]-5-hydroxy-1-methyl-1H-pyrazole were obtained.

reactant | 2-chloro-3-(1-chloro-2,2-dimethyleth-2-ylaminocarbonyl)-4-methylsulfonylbenzoyl chloride | 4.3 mmol, 1.65 g | ClC1=C(C(=O)Cl)C=CC(=C1C(=O)NC(CCl)(C)C)S(=O)(=O)C | C13H14Cl3NO4S
reactant | triethylamine | 4.5 mmol, 0.45 g | C(C)N(CC)CC | C6H15N
reactant | 5-hydroxy-1-methylpyrazole | 4.3 mmol, 0.42 g | OC1=CC=NN1C | C4H6N2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[2-chloro-3-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-4-methylsulfonylbenzoyl]-5-hydroxy-1-methyl-1H-pyrazole | 1.2 g, 68% | ClC1=C(C(=O)C=2C=NN(C2O)C)C=CC(=C1C=1OCC(N1)(C)C)S(=O)(=O)C | C17H18ClN3O5S
